US03971806
5-(o-nitrophenyl)thiopyrano[3,2-b]indol-4-(5H)-one
By the same method as described in Example 7, 8.9 g of thiopyrano [3,2-b]-indol-4-(5H)-one is alkylated with o-fluoronitrobenzene, except the reaction is stirred for 40 hours at 95°C. The yield of product is 9.2 g, mp 207°-208°C after recrystallization from ether-hexane.

reactant | thiopyrano [3,2-b]-indol-4-(5H)-one | 8.9 g | S1C=CC(C=2NC=3C=CC=CC3C21)=O | C11H7NOS
reactant | o-fluoronitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
product | 5-(o-nitrophenyl)thiopyrano[3,2-b]indol-4-(5H)-one | [N+](=O)([O-])C1=C(C=CC=C1)N1C2=C(C=3C=CC=CC13)SC=CC2=O | C17H10N2O3S
